US08470052B2
Preparation of 4-Nonyl-2-(5-nonyl-1H-pyrazol-3-yl)-phenol
1-(2-hydroxy-5-nonyl-phenyl)dodecane-1,3-dione (0.1M) dissolved in ethanol (50 ml), hydrazine hydrate (0.105M) added and the reaction solution heated to reflux. Held at reflux for 2 hours, cooled to ambient and organic phase washed with water (2×25 ml). Toluene removed by vacuum evaporation to produce a brown oil.

reactant | 1-(2-hydroxy-5-nonyl-phenyl)dodecane-1,3-dione | 0.1M | OC1=C(C=C(C=C1)CCCCCCCCC)C(CC(CCCCCCCCC)=O)=O | C27H44O3
reactant | hydrazine hydrate | 0.105M | O.NN
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-Nonyl-2-(5-nonyl-1H-pyrazol-3-yl)-phenol | C(CCCCCCCC)C1=CC(=C(C=C1)O)C1=NNC(=C1)CCCCCCCCC | C27H44N2O
